US07074819B2
Step 1) Synthesis of 3-(4-hydroxyphenyl)-7-methoxymethyloxy-3-methylchroman-4-one
To a solution of 7-hydroxyl-3-(4-hydroxyphenyl)-3-methylchroman-4-one (4.65 g, 17.20 mmol) in dry dimethylformamide (120 ml) was added sodium hydride (454 mg, 18.92 mmol) at room tempetarure and stirred for 30 minutes. To the reaction mixture was then added methoxymethyl chloride (1.523 g, 18.92 mmol) at the same temperature and stirred for 2 h. When the reaction was completed, water was added to the reaction solution which was then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (n-hexane:ethyl acetate=8:2 to 7:3) to give 3.55 g (yield: 66%) of the title compound as a white solid.

reactant | 7-hydroxyl-3-(4-hydroxyphenyl)-3-methylchroman-4-one | 17.20 mmol, 4.65 g | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)=O | C16H14O4
reactant | sodium hydride | 18.92 mmol, 454 mg | [H-].[Na+]
reactant | methoxymethyl chloride | 18.92 mmol, 1.523 g | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 3-(4-hydroxyphenyl)-7-methoxymethyloxy-3-methylchroman-4-one | 3.55 g, yield: 66% | OC1=CC=C(C=C1)C1(COC2=CC(=CC=C2C1=O)OCOC)C | C18H18O5
